US08445490B2
Ethyl 1-(4-(4-(4-aminobutylcarbamoyl)phenylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)cyclopropanecarboxylate (80 mg) and potassium carbonate (64.8 mg) were dissolved in acetone (3 mL)/water (2 mL). After stirring at r.t. for 16 hours and then heated to 90° C. for 2 hours, the mixture was acidified with 1N HCl to pH=3. All the solvents were then removed under vacuum. The residue was purified by perp. HPLC to give 1-(4-(4-(4-aminobutylcarbamoyl)phenylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)cyclopropanecarboxylic acid (20 mg).

reactant | Ethyl 1-(4-(4-(4-aminobutylcarbamoyl)phenylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)cyclopropanecarboxylate | 80 mg | NCCCCNC(=O)C1=CC=C(C=C1)NC1=NC(=NC(=N1)OCC(F)(F)F)NC1(CC1)C(=O)OCC | C22H28F3N7O4
reactant | potassium carbonate | 64.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | water | 2 mL | O | H2O
product | 1-(4-(4-(4-aminobutylcarbamoyl)phenylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)cyclopropanecarboxylic acid | 20 mg | NCCCCNC(=O)C1=CC=C(C=C1)NC1=NC(=NC(=N1)OCC(F)(F)F)NC1(CC1)C(=O)O | C20H24F3N7O4
